* BJT Common Emitter Amplifier
VCC vcc 0 DC 12
RC vcc collector 4.7k
RE emitter 0 1k
R1 vcc base 47k
R2 base 0 10k
Q1 collector base emitter 2N3904
.op
.end
