* Full Wave Bridge Rectifier
Vin ac1 ac2 SIN(0 12 60)
D1 ac1 vout 1N4148
D2 ac2 vout 1N4148
D3 0 ac1 1N4148
D4 0 ac2 1N4148
Rload vout 0 1k
.tran 0 50m
.end
