* Inverting Op-Amp Amplifier Demo
Vin vin 0 SIN(0 1 1k)
Rin vin n_inv 10k
Rf vout n_inv 47k
Eop vout 0 0 n_inv 100000
VCC vcc 0 DC 12
VEE vee 0 DC -12
.tran 0 5m 0 10u
.end
