* Non-inverting Op-Amp Amplifier
Vin vp 0 SIN(0 1 1k)
Rg n_inv 0 10k
Rf vout n_inv 100k
Eop vout 0 vp n_inv 100000
VCC vcc 0 DC 12
VEE vee 0 DC -12
.tran 0 5m
.end
