* Complete op-amp netlist, but student measurements conflict
Vin vin 0 DC 1
VCC V+ 0 DC 12
VEE V- 0 DC -12
Rin vin n_inv 10k
Rf vout n_inv 47k
E1 vout 0 0 n_inv 100000
.end
